US09029549B2
1,2,3,4-Tetrahydronaphthalen-1-yl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (I-224)
At room temperature, 1,2,3,4-tetrahydronaphthalen-1-ol (155 mg) and triphenylphosphine (758 mg) are added to a solution of 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid (III-4, 380 mg) in tetrahydrofuran (2.5 ml). The mixture is stirred at 0 C under argon for 5 minutes, and diethyldiazene 1,2-dicarboxylate (383 mg) is then added dropwise. The reaction mixture is slowly warmed to room temperature. After 2 hours, the solvent is removed under reduced pressure and the residue is purified chromatographically. This gives 1,2,3,4-tetrahydronaphthalen-1-yl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (196 mg, 39%).

reactant | 1,2,3,4-tetrahydronaphthalen-1-ol | 155 mg | C1(CCCC2=CC=CC=C12)O | C10H12O
reactant | triphenylphosphine | 758 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid | 380 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)O)C(F)(F)F | C16H17F3N4O3S
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-Tetrahydronaphthalen-1-yl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OC1CCCC2=CC=CC=C12)C(F)(F)F | C26H27F3N4O3S
